US03946049
B. 5-[4-(1-Hydroxyethyl)phenyl]-2-furonitrile
A solution of 46 g (0.22 mole) of 5-(4-acetylphenyl)-2-furonitrile in 800 ml of 95% dioxane/H2O was treated portionwise with 8.3 g (0.22 mole) of NaBH4 while keeping the temperature below 20° by means of an ice bath. The resulting solution was stirred at ambient temperature for 21/2 hours and then added to an ice/H2O mixture. After standing 48 hours, the reaction mixture was extracted with ether and the combined ethereal extracts dried over MgSO4. The ether was removed on the Calab evaporator yielding 27 g (58%) of product as a residual oil.

reactant | 5-(4-acetylphenyl)-2-furonitrile | 0.22 mole, 46 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(O1)C#N | C13H9NO2
reactant | NaBH4 | 0.22 mole, 8.3 g | [BH4-].[Na+]
solvent | dioxane H2O | 800 ml | O1CCOCC1.O
product | 5-[4-(1-Hydroxyethyl)phenyl]-2-furonitrile | 27 g, 58% | OC(C)C1=CC=C(C=C1)C1=CC=C(O1)C#N | C13H11NO2
